US07105567B2
By the reaction and treatment in the same manner as in Example 1 using (4-bromophenyl)[(4-dimethylaminophenyl)methyl]amine (0.80 g) and 2,6-diisopropylphenyl isocyanate (0.62 mL) as starting materials, N-(4-bromophenyl)-N′-(2,6-diisopropylphenyl)-N-[(4-dimethylaminophenyl)methyl]urea (0.71 g) was obtained. melting point: 165–166° C.

reactant | (4-bromophenyl)[(4-dimethylaminophenyl)methyl]amine | 0.80 g | BrC1=CC=C(C=C1)NCC1=CC=C(C=C1)N(C)C | C15H17BrN2
reactant | 2,6-diisopropylphenyl isocyanate | 0.62 mL | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
product | N-(4-bromophenyl)-N′-(2,6-diisopropylphenyl)-N-[(4-dimethylaminophenyl)methyl]urea | 0.71 g | BrC1=CC=C(C=C1)N(C(=O)NC1=C(C=CC=C1C(C)C)C(C)C)CC1=CC=C(C=C1)N(C)C | C28H34BrN3O
